US07737167B2
N-[5,7-Bis(trifluoromethyl)benzimidazol-2-yl]-1,2,3,4-tetrahydro-1-naphthylamine
The title compound was prepared from 3,5-bis(trifluoromethyl)-1,2-diaminobenzene and 1-isothiocyanato-1,2,3,4-tetrahydronaphthalene by Procedure D. The title compound was isolated by column chromatography as the free base and as a mixture of enantiomers (solid, dec. >240° C.). MS(ES+) m/z 400 ([M+1]+, 100).

reactant | 3,5-bis(trifluoromethyl)-1,2-diaminobenzene | FC(C=1C(=C(C=C(C1)C(F)(F)F)N)N)(F)F | C8H6F6N2
reactant | 1-isothiocyanato-1,2,3,4-tetrahydronaphthalene | N(=C=S)C1CCCC2=CC=CC=C12 | C11H11NS
product | N-[5,7-Bis(trifluoromethyl)benzimidazol-2-yl]-1,2,3,4-tetrahydro-1-naphthylamine | FC(C1=CC2=C(N=C(N2)NC2CCCC3=CC=CC=C23)C(=C1)C(F)(F)F)(F)F | C19H15F6N3
